US04720498
8β-Methyl-6-propyl-2-methylthioergoline
A solution of sulphuryl chloride (0.74 g) in dichloromethane (15 ml) was added dropwise over 15 minutes at -20° C. to a stirred solution of dimethyl disulphide (0.46 g) in dichloromethane (15 ml). After allowing it to reach room temperature the solution of ethyl sulphenyl chloride was added dropwise to a suspension of 8β-methyl-6-propylergoline (2.4 g), in dichloromethane (150 ml) at -70° C. The reaction mixture was stirred and allowed to reach room temperature overnight. Ice cold ammonia solution was added and the mixture extracted with dichloromethane (3×100 ml). The combined extracts were washed with water, dried (MgSO4) and evaporated to dryness. Chromatography on neutral alumina (CH2CH2) and crystallisation from ethanol gave the title compound. The free base was converted to its maleate salt and crystallised from ethanol, m.p. 216°-219° C.

reactant | sulphuryl chloride | 0.74 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dimethyl disulphide | 0.46 g | CSSC | C2H6S2
reactant | ethyl sulphenyl chloride | C(C)SCl | C2H5ClS
reactant | 8β-methyl-6-propylergoline | 2.4 g | C[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)CCC | C18H24N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 8β-Methyl-6-propyl-2-methylthioergoline | C[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)SC)CCC | C19H26N2S
